### PR TITLE
[Merged by Bors] - feat: superFactorial_dvd_vandermonde_det

### PR DESCRIPTION
**Pull request by mo271**
- [x] depends on: #6806
- [x] depends on: #6812 
- [x] depends on: #6918
- [x] depends on: #6927
- [x] depends on: #6929

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/super.20factorial.20and.20vandermonde.20determinant

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 1]
```diff
@@ -79,6 +84,100 @@ theorem det_vandermonde_id_eq_superFactorial (n : ℕ) :
...
+theorem superFactorial_dvd_vandermonde_det {n : ℕ} (v : Fin (n + 1) → ℤ) :
+    ↑(Nat.superFactorial n) ∣ (Matrix.vandermonde v).det := by
+  let m' := List.minimum ((univ : Finset (Fin (n + 1))).image v).toList
+  have : ((univ : Finset (Fin (n + 1))).image v).toList ≠ List.nil := by
+    simp only [ne_eq, toList_eq_nil, image_eq_empty]
+    refine Nonempty.ne_empty univ_nonempty
+  cases' Option.isSome_iff_exists.mp <| Option.ne_none_iff_isSome.mp <|
+      List.minimum_ne_top_of_ne_nil this with m hm
+  have h_min : ∀  l, l ∈ ((univ : Finset (Fin (n + 1))).image v).toList →  m' ≤ l := by
+     exact fun l a ↦ List.minimum_le_of_mem' a
```
Comment (Vierkantor) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:144]: We don't need to take the minimum of a list since `Finset.inf'` does basically the same thing:
```suggestion
  let m := inf' univ ⟨0, mem_univ _⟩ v
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 2]
```diff
@@ -79,6 +84,100 @@ theorem det_vandermonde_id_eq_superFactorial (n : ℕ) :
...
+      exact h_min
+    exact Int.toNat_sub_of_le this
+  rw [this] at h1
+  norm_num at h1
+  use (Matrix.of (fun (i j : Fin (n + 1))  => ((Nat.choose ((v i  - m).toNat) (j : ℕ)) : ℤ))).det
+  convert h1
+  norm_cast
+  rw [Fin.prod_univ_eq_prod_range, ← Ico_zero_eq_range,
+      Finset.prod_eq_prod_Ico_succ_bot <| succ_pos n, ← Finset.prod_Ico_add' (fun x => x !) 0 n 1,
+      Ico_zero_eq_range, ← Fin.prod_univ_eq_prod_range, factorial_zero, one_mul]
```
Comment (Vierkantor) [inline Mathlib/Data/Nat/Factorial/SuperFactorial.lean:179]: Using the following result:
```lean
@[simp]
theorem prod_range_succ_factorial : ∀ n : ℕ, ∏ x in range (n + 1), x ! = sf n
  | 0 => rfl
  | n + 1 => by
    rw [prod_range_succ, prod_range_succ_factorial n, mul_comm, superFactorial]
```
and the definition of `m` above, we can simplify this proof down to:
```suggestion
  have hw' : ∀ i, (w' i : ℤ) = v i - m := fun i ↦ Int.toNat_sub_of_le (inf'_le _ (mem_univ _))
  have h := vandermonde_det_eq_eval_matrixOfPolynomials_det (fun i ↦ ↑(w' i))
      (fun i => descPochhammer ℤ i)
      (fun i => descPochhammer_natDegree ℤ i)
      (fun i => monic_descPochhammer ℤ i)
  conv_lhs at h => simp only [hw', Matrix.det_vandermonde_sub]
  use (Matrix.of (fun (i j : Fin (n + 1)) => (Nat.choose (w' i) (j : ℕ) : ℤ))).det
  simp [h, eval_matrixOfPolynomials_eq_mul_matrix_of_choose w', Fin.prod_univ_eq_prod_range]
```

File: Mathlib/Data/Nat/Factorial/SuperFactorial.lean [hunk 3]
```diff
@@ -79,6 +84,100 @@ theorem det_vandermonde_id_eq_superFactorial (n : ℕ) :
...
+    (Matrix.of (fun (i j : Fin n) =>
+    ((fun n => descPochhammer ℤ n) j).eval ((fun k => (v k : ℤ)) i)) ).det =
+    (∏ i : Fin n,  Nat.factorial i) *
+    (Matrix.of (fun (i j : Fin n)  => ((Nat.choose ((v i)) (j : ℕ)) : ℤ))).det := by
+  convert Matrix.det_mul_row (fun (i : Fin n)  => ((Nat.factorial (i : ℕ)):ℤ)) _
+  · rw [Matrix.of_apply, descPochhammer_int_eq_descFactorial _ _]
+    congr
+    exact Nat.descFactorial_eq_factorial_mul_choose _ _
+  · rw [Nat.cast_prod]
+
```
[the remark this answers is not in the document]
Comment (mo271) [reply Mathlib/Data/Nat/Factorial/SuperFactorial.lean:99]: I think the first four are general enough to be moved to separate LinearAlgebra/Matrix/Block and LinearAlgebra/Vandermonde resp., which I have done now. For `matrixOf_eval_descPochhammer_eq_mul_matrixOf_choose` seems very specific to this proof, hence I made it private. 
What do you think?!
Note that for Mathlib/LinearAlgebra/Vandermonde I needed a new import.

**Comment by mo271** [comment]
Thanks a lot for the thorough review and nice improvements!

**Review by Vierkantor — APPROVED** [review]
Looks good to me, thanks!

maintainer merge

**Comment by Vierkantor** [comment]
Let's see if our resurrected bors works:

bors merge
